US06638929B2
A 0.138 g (0.349 mM) portion of 6-amino-4-(3-bromoanilino)[1]benzothieno[3,2-b]pyridine-3-carbonitrile is dissolved in 2 mL of tetrahydrofuran and 2 mL of dimethylformamide at 0C. To this is added 0.042 g (0.583 mM) of acrylic acid, 0.105 g (0.575 mM) of N,N-diisopropylethylamine and 0.106 g (0.554 mM) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride with stirring under nitrogen. The reaction mixture is stirred for 48 hours at room temperature, and the solvent is removed under reduced pressure. The residue is worked up with water (3 mL) and extracted with methylene chloride (10 mL), dried with sodium sulfate and evaporated. Purification of the product is carried out by silica gel chromatography, eluting with 20:1 chloroform/methanol. Further purification is achieved by preparative thin layer chromatography, eluting with the same solvent system. Finally, the product is washed with ether to provide 0.068 g (43%) of N-[4-(3-bromoanilino)-3-cyano[1]benzothieno[3,2-b]pyridin-6-yl]acrylamide, m.p. 286-287° C.

reactant | 6-amino-4-(3-bromoanilino)[1]benzothieno[3,2-b]pyridine-3-carbonitrile | NC1=CC=CC2=C1SC=1C2=NC=C(C1NC1=CC(=CC=C1)Br)C#N | C18H11BrN4S
reactant | acrylic acid | 0.583 mM, 0.042 g | C(C=C)(=O)O | C3H4O2
reactant | N,N-diisopropylethylamine | 0.575 mM, 0.105 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.554 mM, 0.106 g | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | N-[4-(3-bromoanilino)-3-cyano[1]benzothieno[3,2-b]pyridin-6-yl]acrylamide | 0.068 g, 43% | BrC=1C=C(NC2=C3C(=NC=C2C#N)C2=C(S3)C(=CC=C2)NC(C=C)=O)C=CC1 | C21H13BrN4OS
